US07326722B2
3.3. 4-Amino-3-chloro-5-trifluoromethylbenzoic acid.
7.8 g (40 mmol) of 4-amino-5-trifluoromethylbenzoic acid in 80 ml of chloroform are placed in a 500 ml round-bottomed flask in the presence of 9.97 ml (50 mmol) of sulphuryl chloride, and the mixture is stirred under reflux overnight.

reactant | 4-amino-5-trifluoromethylbenzoic acid | 40 mmol, 7.8 g | NC1=CC=C(C(=O)O)C=C1C(F)(F)F | C8H6F3NO2
reactant | sulphuryl chloride | 50 mmol, 9.97 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Amino-3-chloro-5-trifluoromethylbenzoic acid | NC1=C(C=C(C(=O)O)C=C1C(F)(F)F)Cl | C8H5ClF3NO2
